US07105539B2
2-(Diethoxy-phosphoryl)-4-phenyl-butyric acid tert-butyl ester
Diethylphosphonoacetate (1.00 g, 3.96 mmol) was added drop wise at 0° C. to a stirring suspension of sodium hydride (0.095 g, 3.96 mmol) in anhydrous THF (50 mL). The mixture was then allowed to stir for 10 minutes at 0° C. and then for 1 hour at room temperature before it was cooled again to 0° C. followed by the addition of phenethyl bromide (0.73 g, 3.96 mmol). The mixture was then allowed to proceed for 24 hours at room temperature. The solvent was evaporated and the residue was taken-up in water and extracted 4 times with ethyl acetate. The organic extracts were combined, washed with water and brine, dried using magnesium sulfate, filtered and evaporated. The crude residue was purified by flash chromatography (ethyl acetate in hexanes, 10%–50%) to afford the desired compound as a colorless oil. 1H NMR (CDCl3, 400 MHz) δ 7.18 (m, 2H), 7.09 (m, 2H), 4.07–3.99 (m, 4H), 2.82–2.72 (m, 1H), 2.69–2.60 (m, 1H), 2.54–2.45 (m, 1H), 2.25–2.12 (m, 1H), 2.08–1.94 (m, 1H), 1.41 (s, 9H), 1.24–1.18 (m, 6H); 13C (CDCl3, 400 MHz) δ 167.7, 140.4, 128.3, 128.2, 125.9, 81.5, 62.2, 46.3, 45.0, 34.1, 28.5, 27.7, 16.1; 31P (CDCl3, 400 MHz) δ 23.7. HRMS calcd. for C18H29O5P 356.1753. found 356.1757.

reactant | Diethylphosphonoacetate | 3.96 mmol, 1.00 g | C(C)OP(=O)(OCC)CC(=O)[O-]
reactant | sodium hydride | 3.96 mmol, 0.095 g | [H-].[Na+]
reactant | phenethyl bromide | 3.96 mmol, 0.73 g | C(CC1=CC=CC=C1)Br | C8H9Br
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(Diethoxy-phosphoryl)-4-phenyl-butyric acid tert-butyl ester | C(C)(C)(C)OC(C(CCC1=CC=CC=C1)P(=O)(OCC)OCC)=O | C18H29O5P
